US07368453B2
Step 3. Synthesis of 1,1-Dimethylethyl(2R,3S)-3-{[(1,1-dimethylethyl)(dimethyl)silyl]oxy}-2-(hydroxymethyl)-1-pyrrolidinecarboxylate
The title compound was prepared from 1-(1,1-dimethylethyl) 2-ethyl(2S,3S)-3-{[(1,1-dimethylethyl)(dimethyl)silyl]oxy}-1,2-pyrrolidinedicarboxylate using the methods used for preparation of 1,1-dimethylethyl(2S,3S)-2-(hydroxymethyl)-3-methyl-1-pyrrolidinecarboxylate. 1H NMR (400 MHz, DMSO-D6) δ ppm—0.0 (m, 6 H) 0.8 (m, 9 H) 1.0 (m, 1 H) 1.4 (m, 9 H) 1.6 (m, 1 H) 3.1 (m, 1 H) 3.2 (m, 2 H) 3.5 (m, 2 H) 4.3 (m, 1 H) 4.8 (m, 1 H).

reactant | 1-(1,1-dimethylethyl) 2-ethyl(2S,3S)-3-{[(1,1-dimethylethyl)(dimethyl)silyl]oxy}-1,2-pyrrolidinedicarboxylate | CC(C)(C)[Si](O[C@@H]1[C@H](N(CC1)C(=O)OC(C)(C)C)C(=O)OCC)(C)C | C18H35NO5Si
reactant | 1,1-dimethylethyl(2S,3S)-2-(hydroxymethyl)-3-methyl-1-pyrrolidinecarboxylate | OC[C@H]1N(CC[C@@H]1C)C(=O)OC(C)(C)C | C11H21NO3
product | 1,1-Dimethylethyl(2R,3S)-3-{[(1,1-dimethylethyl)(dimethyl)silyl]oxy}-2-(hydroxymethyl)-1-pyrrolidinecarboxylate | CC(C)(C)[Si](O[C@@H]1[C@H](N(CC1)C(=O)OC(C)(C)C)CO)(C)C | C16H33NO4Si
